US06867218B2
(E)-(S)-Ethyl 3-{4-[3-(3′,5′-Dichloro-biphenyl-4-yl)-but-2-enyloxy]-phenyl}-2-ethoxy-propionate
The title compound (794 mg, 77%) was prepared as a colourless gum from (E)-3-(3′,5′-dichloro-biphenyl-4-yl)-but-2-en-1-ol (586 mg, 2.0 mmol) and (S)-ethyl 2-ethoxy-3-(4-hydroxyphenyl)-propionate (500 mg, 2.10 mmol) by a procedure analogous to that described in example 52c.

reactant | (E)-3-(3′,5′-dichloro-biphenyl-4-yl)-but-2-en-1-ol | 2.0 mmol, 586 mg | ClC=1C=C(C=C(C1)Cl)C1=CC=C(C=C1)/C(=C/CO)/C | C16H14Cl2O
reactant | (S)-ethyl 2-ethoxy-3-(4-hydroxyphenyl)-propionate | 2.10 mmol, 500 mg | C(C)O[C@H](C(=O)OCC)CC1=CC=C(C=C1)O | C13H18O4
product | (E)-(S)-Ethyl 3-{4-[3-(3′,5′-Dichloro-biphenyl-4-yl)-but-2-enyloxy]-phenyl}-2-ethoxy-propionate | 794 mg, 77% | ClC=1C=C(C=C(C1)Cl)C1=CC=C(C=C1)/C(=C/COC1=CC=C(C=C1)C[C@@H](C(=O)OCC)OCC)/C | C29H30Cl2O4
